US06706743B2
2-[4-(2-Methyl-1H-imidazol-4-yl)-phenoxy]-ethylamine
In a nitrogen-purged Parr flask, benzyl-{2-[4-(2-methyl-1H-imidazol-4-yl)-phenoxy]-ethyl}-carbamate (78 mg, 0.22 mmol) was dissolved in methanol (15 ml), and 10% Pd/C (20mg) was added in one portion. The material was then hydrogenated at about 45 psi for about four hours. The reaction mixture was then filtered through a pad of diatomaceous earth and the filter pad was washed with methanol. The filtrate was concentrated in vacuo, and the resulting material (49 mg, 100% yield) was carried on without further purification. LRMS ([M+H]+)=218.2.

reactant | benzyl-{2-[4-(2-methyl-1H-imidazol-4-yl)-phenoxy]-ethyl}-carbamate | 0.22 mmol, 78 mg | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)C=1N=C(NC1)C)=O | C20H21N3O3
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd/C | 20mg | [Pd] | Pd
product | 2-[4-(2-Methyl-1H-imidazol-4-yl)-phenoxy]-ethylamine | 49 mg, 100% yield | CC=1NC=C(N1)C1=CC=C(OCCN)C=C1 | C12H15N3O
